US04839348
A solution of 2-amino-7-chloro-3-carboethoxy-5-carbomethoxy-4-(m-trifluoromethylphenyl)-6-oxo-2-heptene (5 g) and aqueous concentrated HCl (0.2 ml) in EtOH (50 ml) is stirred at 0° C. for 2 hours then it is neutralized with a drop of a saturated NaHCO3 solution and evaporated to dryness. The residue is dissolved in AcOEt (50 ml), washed with water (3×15 ml), dried on Na2SO4 and concentrated in vacuum. The residue is dissolved in Et2O/diisopropylether to give 3.6 g of 2-chloromethyl-3-carboethoxy-5-carbomethoxy-4-(m-trifluoromethylphenyl)-6-methyl-1,4-dihydropyridine, m.p. 115°-116° C.

reactant | 2-amino-7-chloro-3-carboethoxy-5-carbomethoxy-4-(m-trifluoromethylphenyl)-6-oxo-2-heptene | 5 g | NC(C)=C(C(C(C(CCl)=O)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C19H21ClF3NO5
reactant | HCl | 0.2 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-chloromethyl-3-carboethoxy-5-carbomethoxy-4-(m-trifluoromethylphenyl)-6-methyl-1,4-dihydropyridine | 3.6 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C19H19ClF3NO4
